US06833370B1
tert-butyl 1-(6-chloro-3-pyridinyl)-3-azetidinylcarbamate
tert-Butyl 3-azetidinylcarbamate (0.70 g, 4.0 mmol) and 2-chloro-5-iodopyridine (1.46 g, 6.0 mmol; Aldrich) were processed according to the procedure described in Example 1A to provide the title compound (0.53 g, 47%). MS (CI/NH3) m/z 284/286.

reactant | tert-Butyl 3-azetidinylcarbamate | 4.0 mmol, 0.70 g | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | 2-chloro-5-iodopyridine | 6.0 mmol, 1.46 g | ClC1=NC=C(C=C1)I | C5H3ClIN
product | tert-butyl 1-(6-chloro-3-pyridinyl)-3-azetidinylcarbamate | 0.53 g, 47% | ClC1=CC=C(C=N1)N1CC(C1)NC(OC(C)(C)C)=O | C13H18ClN3O2
